US08222416B2
To a solution of 1-benzenesulfonyl-5-nitro-1H-pyrrolo[2,3-b]pyridine (2.8 g, 9.24 mmol) in tetrahydrofuran (50 mL) was added 10% palladium on activated carbon (0.98 g). The resulting mixture was stirred under hydrogen (50 psi) for 48 h at room temperature. The catalyst was removed by filtration and the filtrate was concentrated to afford 1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-5-ylamine (2.52 g, 100%) as a yellow oil which was used in the next step without purification: LC/MS m/e calcd for C13H11N3O2S [M+H]+ 274.32, observed 274.1.

reactant | 1-benzenesulfonyl-5-nitro-1H-pyrrolo[2,3-b]pyridine | 9.24 mmol, 2.8 g | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=C(C2)[N+](=O)[O-] | C13H9N3O4S
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
catalyst | palladium on activated carbon | 0.98 g | [Pd] | Pd
product | 1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-5-ylamine | 2.52 g, 100% | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=C(C2)N | C13H11N3O2S
